US06217793B1
{circle around (2)}: A mixture comprising 3.5 g of benzyl 4-n-dodecylcarbonyloxybenzoate, 0.4 g of palladium/carbon and 20 g of ethyl acetate was stirred for 6 hours under hydrogen atmosphere. Then, palladium/carbon was filtered off, and ethyl acetate was distilled off from the filtrate. The resultant residue was recrystallized from toluene, whereby 2.40 g of 4-n-dodecylcarbonyloxybenzoic acid was obtained in the form of a colorless crystal.

reactant | benzyl 4-n-dodecylcarbonyloxybenzoate | 3.5 g | C(CCCCCCCCCCC)C(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C27H36O4
catalyst | palladium/carbon | 0.4 g | [Pd] | Pd
solvent | ethyl acetate | 20 g | C(C)(=O)OCC | C4H8O2
product | 4-n-dodecylcarbonyloxybenzoic acid | 2.40 g | C(CCCCCCCCCCC)C(=O)OC1=CC=C(C(=O)O)C=C1 | C20H30O4
